US09084794B2
a) 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid
A suspension of 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (4.05 mmol) in dichloromethane (10 mL) was treated with 1N aq sodium hydroxide (5.00 mmol) at room temperature. After one hour the organic layer of the reaction had turned from cloudy to clear. The aqueous layer was removed via pipet. To the remaining organic solution was added 2-oxoacetic acid monohydrate (4.05 mmol) and (4-bromo-2-fluorophenyl)boronic acid (4.05 mmol) at room temperature. The reaction was allowed to stir at room temperature for three days, after which the solution was concentrated to dryness under a stream of nitrogen. The resulting crude material was diluted with acetonitrile (10 mL) and transferred to a microwave reactor vial. The reaction vessel was sealed and the mixture irradiated in a Biotage Initiator Microwave at 80° C. for 30 min and then at 100° C. for 30 min. The reaction was concentrated to dryness in vacuo. The resulting crude material was purified by reverse phase HPLC (10-40% acetonitrile/water w/0.1% NH4OH) to afford the title compound as a white solid (853 mg, 45%). MS(ES)+ m/e 441.0/443.1 [M+H]+ (bromide isotope pattern).

reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 4.05 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
reactant | sodium hydroxide | 5.00 mmol, 1N | [OH-].[Na+]
reactant | 2-oxoacetic acid monohydrate | 4.05 mmol | O.O=CC(=O)O
reactant | (4-bromo-2-fluorophenyl)boronic acid | 4.05 mmol | BrC1=CC(=C(C=C1)B(O)O)F | C6H5BBrFO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid | 853 mg, 45% | BrC1=CC(=C(C=C1)C(C(=O)O)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H22BrFN2O4
